Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seafood / abacavir sulfate / Phenothiazines
 
Attending: ___.
 
Chief Complaint:
admitted for C2 of DA-R-EPOCH
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
A ___ year old male with PMH of HIV, HTN and HLD, who was 
admitted on ___ for left sided chest pain. He reports 
he had been having left sided chest pain since the end of ___. He described the pain as achy and
thought he had a pulled muscle. He has being followed by his pcp 
who did ___ chest x ray which was negative. Pain worsened, he went 
to the ___ ER ___ CTA chest and abdomen revealed a 6 cm 
soft tissue mass surrounding the left fourth rib with an 
associated pathologic fracture, 1.2 cm soft tissue nodule
abutting the left psoas, an expansile mixed lytic and sclerotic 
T10 lesion, a 2.5 cm indeterminate right adrenal nodule, 
retroperitoneal LAD. Possible bone lesions in L 7th rib, R iliac 
and R acetabulum. He then underwent an ___ guided biopsy of this 
soft tissue mass on ___, which showed diffuse large B cell
lymphoma, CD20+, CD10 neg, Ki67 80-90%, EBV RNA neg and BCL 6 
rearrangement. H received his first cycle of DA-EPOCH on ___ 
___s IT MTX for CNS PPX and diagnostic purposes. Overall, 
tolerated this well and was discharged on ___. He was seen 
outpatient by Dr. ___ at ___ who administered 
his first dose of Rituximab of which he tolerated well. He is 
presenting for his C2 of DA-R-EPOCH at dose level 1. 

REVIEW OF SYSTEMS: Patient reports feeling well. Denies fevers, 
chills, rigors, night sweats or weight loss. Denies shortness of 
breath, chest pain or palpations of the heart. Reports his 
appetite is good. He reports excellent compliance with his HIV 
medications.  

 
Past Medical History:
Treatment History: 
___: IT MTX
___: C1D1 da-EPOCH
___: C1D1 Rituxan
___: C2D1 da-R-EPOCH

Past Medical/ surgical History:
HIV- dx in ___
HTN
HLD
Depression
h/o shingles
seasonal allergies
tonsillectomy at age ___
 
Social History:
___
Family History:
Mother (d) ___- MI
Father (d) ___- aortic stenosis, COPD
PGM (d) 53 - Stomach CA
PGF (d) ___ - MI
2 Brothers with hemochromatosis
another brother and 1 sister all alive and well.
No other known family history of blood cancers or blood
disorders.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
___ 1608 Temp: 98.0 PO BP: 144/97 HR: 79 RR: 18 O2 sat: 96%
O2 delivery: RA 
General:  Well-appearing, no acute distress. 
Heent: PERRLA, Anicteric sclerae.  Oropharynx clear without
erythema, oral ulcerative lesions, or thrush. 
Neck:  upple without thyromegaly or adenopathy. 
Lymphatics: No cervical, supraclavicular, infraclavicular,
axillary, inguinal adenopathy noted. 
Heart: Regular rate and rhythm.  Normal S1, S2. No S3 or S4. No
murmurs, rubs, or gallops. 
Lungs: Clear to auscultation bilaterally without rhonchi, rales,
or wheezes. Normal respiratory effort. 
Abdomen: Soft, nontender, nondistended, normoactive bowel sounds
throughout. No heptosplenomegaly. 
Skin:  Warm, dry, intact. scratches to top right foot. No
discrete rash. 
Extremities: No edema. 
Access: POC C/D/I

DISCHARGE PHYSICAL EXAMINATION
___ 0742 Temp: 97.5 PO BP: 120/75 HR: 62 RR: 18 O2 sat: 95%
O2 delivery: RA 
General:  Well-appearing, no acute distress. 
Heent: Anicteric sclerae.  Oropharynx clear without
erythema, oral ulcerative lesions, or thrush. 
Neck: no adenopathy. 
Heart: normal rate, regular rhythm.  Normal S1, S2. No murmurs,
rubs, or gallops. 
Lungs: Clear to auscultation bilaterally without rhonchi, rales,
or wheezes. Normal respiratory effort. 
Abdomen: Soft, nontender, nondistended. No heptosplenomegaly. 
Skin:  Warm, dry, intact. scratches to top right foot. No
discrete rash. 
Extremities: No edema. 
Access: POC C/D/I
 
Pertinent Results:
ADMISSION LABS
------------------
___ 12:30PM   PLT SMR-NORMAL PLT COUNT-352
___ 12:30PM   HYPOCHROM-OCCASIONAL ANISOCYT-OCCASIONAL 
POIKILOCY-NORMAL MACROCYT-OCCASIONAL MICROCYT-NORMAL 
POLYCHROM-OCCASIONAL
___ 12:30PM   NEUTS-78* BANDS-3 LYMPHS-9* MONOS-7 EOS-0 
BASOS-0 ___ METAS-1* MYELOS-2* NUC RBCS-1* AbsNeut-11.99* 
AbsLymp-1.33 AbsMono-1.04* AbsEos-0.00* AbsBaso-0.00*
___ 12:30PM   WBC-14.8* RBC-3.16* HGB-10.4* HCT-30.7* 
MCV-97 MCH-32.9* MCHC-33.9 RDW-13.1 RDWSD-45.3
___ 12:30PM   CALCIUM-9.0
___ 12:30PM   ALT(SGPT)-16 AST(SGOT)-17 LD(LDH)-257* ALK 
PHOS-91 TOT BILI-0.2
___ 12:30PM   UREA N-12 CREAT-1.1 SODIUM-139 POTASSIUM-4.5 
CHLORIDE-103 TOTAL CO2-25 ANION GAP-11

DISCHARGE LABS
-----------------
___ 12:00AM BLOOD WBC-11.2* RBC-2.79* Hgb-9.2* Hct-27.6* 
MCV-99* MCH-33.0* MCHC-33.3 RDW-13.7 RDWSD-47.0* Plt ___
___ 12:00AM BLOOD Neuts-95.6* Lymphs-2.3* Monos-1.0* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-10.67* AbsLymp-0.26* 
AbsMono-0.11* AbsEos-0.00* AbsBaso-0.01
___ 12:00AM BLOOD Plt ___
___ 12:00AM BLOOD Glucose-121* UreaN-20 Creat-0.9 Na-140 
K-4.0 Cl-101 HCO3-26 AnGap-13
___ 12:30PM BLOOD  WBC-14.8* Lymph-9* Abs ___ CD3%-86 
Abs CD3-1143 CD4%-11 Abs CD4-145* CD8%-74 Abs CD8-988* 
CD4/CD8-0.15*
___ 12:00AM BLOOD ALT-19 AST-17 LD(LDH)-191 AlkPhos-68 
TotBili-0.3
___ 12:00AM BLOOD Albumin-3.8 Calcium-9.1 Phos-3.8 Mg-2.___ssessment and Plan: A ___ year old M with HIV newly diagnosed 
with DLBCL in setting of new L large pleural mass s/p C1 of 
DA-R-EPOCH admitted for C2.

ACUTE ISSUES
-----------------

#Stage IV DLBCL: Recently diagnosed. Underwent soft tissue mass 
biopsy ___ consistent with DLBCL BCL 6 rearrangement. He is 
stage IV involving soft tissues, bones, nodes, adrenal. 
Treatment with curative intent with planned 6 cycles of 
DA-EPOCH- R. He received IT MTX as part of CNS prophylaxis on 
___ and appears to be free of evidence of CNS involvement. 
His flow cytometry was non-diagnostic. He is
intermediate risk for CNS involvement, as he is a stage IV 
disease, adrenal involvement, and extranodal involvement. Plan 
will be for 2 cycles of HD MTX after completion of 6 cycles of 
da R-EPOCH. He was admitted for C2 R-DA-EPOCH. Today is D+5. He 
tolerated his regimen well. Continues on Acyclovir and Bactrim 
for prophylaxis at discharge.  He is without evidence of TLS so 
consider discontinuing allopurinol outpatient. 
Will start Neupogen daily on Day 6 or 7 following chemotherapy 
completion. He has enough neupogen injections that will last 
through this cycle and the next two cycles.  For the time being, 
he will have labs and visits checked with Dr. ___ at ___. 
Scheduled for ___ and ___

#Leukcytosis: Without infectious symptoms, we will continue to 
monitor and trend outpatient as he appears quite well.  This is 
likely steroid effect.  

#HIV: Stable. Currently on descovy and doltegavir per ID  
recommendations. CD4 count last checked on ___ was 145 and 
last HIV viral load negative on ___.

#Depression and Anxiety: Stable. Previously on long-acting 
wellbutrin 300mg but given concern for drug-drug interaction 
with chemotherapy, this was discontinued and discussed with  
psychiatry who agrees with holding medication. Additionally, 
would not recommend starting any other antidepressant at this
time as patient also would prefer not to do so. 

#HTN: Stable. Off lisinopril as pressures were lower during 
outpatient visits with Dr. ___. Normotensive on throughout 
hospital course. 

#HLD: Stable. Holding statin due to drug-drug interactions with 
chemotherapy. 
 
Prophylaxes:
------------------
#Access: POC placed ___
#Contact: ___
#Disposition: Discharged ___. RTC ___ and ___
#Code Status: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Filgrastim-sndz 480 mcg SC Q24H 
2. Dolutegravir 50 mg PO DAILY 
3. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
4. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
5. Acyclovir 400 mg PO Q12H 
6. Allopurinol ___ mg PO DAILY 
7. LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia 
8. Multivitamins 1 TAB PO DAILY 
9. Pravastatin 80 mg PO QPM 
10. Vitamin D 1000 UNIT PO DAILY 
11. Ondansetron ODT 8 mg PO Q8H:PRN nausea 
12. Cetirizine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  Allopurinol ___ mg PO DAILY  
3.  Cetirizine 10 mg PO DAILY:PRN allergies  
4.  Dolutegravir 50 mg PO DAILY  
5.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
6.  Filgrastim-sndz 480 mcg SC Q24H  
7.  LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia  
8.  Multivitamins 1 TAB PO DAILY  
9.  Ondansetron ODT 8 mg PO Q8H:PRN nausea  
10.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
11.  Vitamin D 1000 UNIT PO DAILY  
12. HELD- Pravastatin 80 mg PO QPM  This medication was held. Do 
not restart Pravastatin until your Oncology team tells you to do 
so.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
-------------------
#DIFFUSE LARGE B-CELL LYMPHOMA
#DEPRESSION/ANXIETY

SECONDARY DIAGNOSIS
#HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for your second cycle of chemotherapy for your 
lymphoma treatment. You tolerated this well and will be 
discharged home today. Please refer below for your appointments 
and lab checks with Dr. ___. Continue to take all of your 
medications as prescribed. It was a pleasure taking care of you. 


Best,

Your ___ Care Team
 
Followup Instructions:
___